US06458772B1
e) Iodomethyl 3-(N-benzyloxycarbonyl-L-valyloxy)-benzoate
To a solution of chloromethyl 3-(N-benzyloxycarbonyl-L-valyloxy)-benzoate (2.0 g, 4.76 mmole) in dry acetone (30 ml) was added sodium iodide (3.15 g, 21 mmole) and the mixture was stirred overnight at room temperature. The mixture was evaporated under reduced pressure and extracted with ethyl actate/water. The organic phase was washed with a 5% sodium thiosulfate solution, dried with sodium sulfate and evaporated under reduced pressure. Yield: 2.3g=94%.

reactant | chloromethyl 3-(N-benzyloxycarbonyl-L-valyloxy)-benzoate | 4.76 mmole, 2.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC=1C=C(C(=O)OCCl)C=CC1 | C21H22ClNO6
reactant | sodium iodide | 21 mmole, 3.15 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | Iodomethyl 3-(N-benzyloxycarbonyl-L-valyloxy)-benzoate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OC=1C=C(C(=O)OCI)C=CC1 | C21H22INO6
